US07595345B2
G. (4-{1-Ethyl-1-[4-(2-ethyl-2-hydroxy-butoxy)-3-methyl-phenyl]-propyl}-2-methyl-benzoylamino)-acetic acid methyl ester
Using a procedure analogous to Example 1J, 4-{1-ethyl-1-[4-(2-ethyl-2-hydroxy-butoxy)-3-methyl-phenyl]-propyl}-2-methyl-benzoic acid (0.64 g, 1.55 mmol) and glycine methyl ester hydrochloride (195 mg, 1.55 mmol) gives the title compound (0.72 g, 1.49 mmol, 96%). %).

reactant | 4-{1-ethyl-1-[4-(2-ethyl-2-hydroxy-butoxy)-3-methyl-phenyl]-propyl}-2-methyl-benzoic acid | 1.55 mmol, 0.64 g | C(C)C(CC)(C1=CC(=C(C=C1)OCC(CC)(O)CC)C)C1=CC(=C(C(=O)O)C=C1)C | C26H36O4
reactant | glycine methyl ester hydrochloride | 1.55 mmol, 195 mg | Cl.COC(CN)=O
product | (4-{1-Ethyl-1-[4-(2-ethyl-2-hydroxy-butoxy)-3-methyl-phenyl]-propyl}-2-methyl-benzoylamino)-acetic acid methyl ester | 1.49 mmol, 0.72 g, 96% | COC(CNC(C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)OCC(CC)(O)CC)C)CC)C)=O)=O | C29H41NO5
